US05286723
1) Dimethyl 3,5,6-trifluoro-4-nitromethylphthalate (compound 42)
200 g of dimethyl tetrafluorophthalate was dissolved in 400 ml of nitromethane (Ishikawa, Suzuki & Tanabe: Nippon Kagaku Kaishi, 1976, 200) and the solution was cooled on an ice-salt bath. At an internal temperature of 15°-20° C., 171 g of 1,8-diazabicyclo[5,4,0]-7-undecene was added dropwise over a period of 30 minutes. After completion of the dropwise addition, the mixture was further stirred at an internal temperature of 10° C. for 30 minutes, then, the mixture was poured into a mixture of 1.5 liters of 1N hydrochloric acid and 1 liter of ice.

reactant | dimethyl tetrafluorophthalate | 200 g | FC=1C(=C(C(=C(C1C(=O)OC)C(=O)OC)F)F)F | C10H6F4O4
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 171 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 1N, 1.5 liters | Cl | ClH
reactant | nitromethane | 400 ml | [N+](=O)([O-])C | CH3NO2
product | Dimethyl 3,5,6-trifluoro-4-nitromethylphthalate | FC1=C(C(C(=O)OC)=C(C(=C1C[N+](=O)[O-])F)F)C(=O)OC | C11H8F3NO6
